US08304419B2
Step A: 1,2-difluoro-4-nitro-3-(phenyloxy)benzene
Sodium hydride (60% oil dispersion) (2.125 g, 53.1 mmol) was added in portions to a solution of phenol (5.00 g, 53.1 mmol) in THF (100 mL) while cooling in an ice bath. After 30 min, 1,2,3-trifluoro-4-nitrobenzene (6.11 mL, 53.1 mmol) was added. The mixture was stirred at RT overnight. The reaction mixture was poured on to ice/10% aqueous HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated. Chromatography of the residue (ethyl acetate:hexane) gave the crude product (10.78 g, 43%) as a yellow oil.

reactant | Sodium hydride | 53.1 mmol, 2.125 g | [H-].[Na+]
reactant | phenol | 53.1 mmol, 5.00 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,2,3-trifluoro-4-nitrobenzene | 53.1 mmol, 6.11 mL | FC1=C(C(=C(C=C1)[N+](=O)[O-])F)F | C6H2F3NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1,2-difluoro-4-nitro-3-(phenyloxy)benzene | 10.78 g, 43% | FC1=C(C(=C(C=C1)[N+](=O)[O-])OC1=CC=CC=C1)F | C12H7F2NO3
